datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])[H:15])[H:11].[C:21](=[C:22]([C:23]([C:24]([H:29])([H:30])[H:31])[H:28])[H:27])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([c:5]1[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]1[H:20])([H:15])[C:23]([C:22](=[C:21]([H:25])[H:26])[H:27])([C:24]([H:29])([H:30])[H:31])[H:28])[H:11],47.0282
[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([H:13])[H:14])([O:5][O:6][H:7])[H:12])([H:10])[H:11])([H:8])[H:9],87.0272
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:10],98.324
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[H:9]>>[C:0]([C:1]([H:6])[H:7])([H:3])([H:4])[H:5].[S:2]([H:8])[H:9],15.439
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[H:9]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])[H:4].[H:3][H:9],51.392072
[O:0].[c:1]1([H:7])[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12]>>[O:0][H:7].[c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],61.5271
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17]([H:22])([H:23])[H:24])[C:18]([H:25])([H:26])[H:27])[H:6],53.0113
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[C:13](=[O:14])[H:15]>>[C-:13]#[O+:14].[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:15])([H:4])([H:5])[H:6],0.0
[C:0]([O:1][H:4])([H:2])[H:3].[O:5][O:6]>>[C:0]([O:1][H:4])([H:2])([H:3])[O:5][O:6],0.0
[N:0]=[N:1][H:2].[O:3][O:4]>>[H:2][O:3][O:4].[N:0]#[N:1],0.6276
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15](=[C:16]([H:22])[H:23])[H:21])[H:20])[H:8])([H:6])[H:7],69.6636
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12])[H:10])[H:9])([H:7])[H:8]>>[C:0](=[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])[C:5]1([C:6]([H:15])([H:16])[H:17])[H:14])[H:9])([H:7])[H:8],164.766
[C-:15]#[O+:16].[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([O:4][O:5][H:14])([H:12])[H:13])[C:15]=[O:16])([H:6])([H:7])[H:8],20.120856
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20][C:21](=[C:22]([H:26])[H:27])[H:25])([H:23])[H:24]>>[C:0]1([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:7][C:20](=[C:19]([H:23])[H:24])[C:21](=[C:22]([H:26])[H:27])[H:25],37.2376
[O:0]=[C:1]([C:2](=[C:3]([O:4][H:8])[H:7])[H:6])[H:5].[O:9][O:10][H:11]>>[H:5][O:9][O:10][H:11].[O:0]=[C:1][C:2](=[C:3]([O:4][H:8])[H:7])[H:6],49.87328
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([H:18])([H:19])[H:20])[C:15]([H:21])([H:22])[H:23])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:12]([C:13]([C:14]([H:18])([H:19])[H:20])[C:15]([H:21])([H:22])[H:23])([H:16])[H:17])[H:5],31.38
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19]([H:20])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[C:19]([H:20])([H:21])[H:22])[H:9],14.5603
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[S:12][H:19])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[S:12][H:19],82.4248
[O:0].[O:1][O:2][H:3]>>[O:0][H:3].[O:1][O:2],-3.02892312
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([O:18][O:19])([H:20])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[H:16])([H:8])[H:9])([H:5])([H:6])[H:7].[H:10][O:19][O:18][C:17]([H:20])([H:21])[H:22],46.4424
